US03948971
Coupling of N-(1-methylcyclobutyloxycarbonyl) aspartic anhydride with phenylalanine methyl ester hydrochloride is carried out in an organic solvent, for example dimethylformamide in the presence of an amine such as triethylamine. The reaction is stirred for several hours at a temperature of about 20°C. Upon completion of the coupling reaction the solvent is removed and the residue dissolved in ethyl acetate. Extraction with acid and removal of the solvent affords a mixture of α and β N-(1-methylcyclobutyloxycarbonyl) aspartyl-phenylalanine methyl ester. The blocking group is removed by stirring the protected dipeptide ester in anhydrous hydrofluoric acid at 0°C. The α-isomer of aspartyl-phenylalanine methyl ester is isolated by treating an aqueous mixture of the α- and β- isomers with β-phenylpropionic acid at a pH of from 3-5. The α-aspartyl phenylalanine methyl ester β-phenylpropionic adduct precipitates out of the solution. The resulting adduct is readily decomposed by treatment with acid to produce α-aspartyl phenylalanine methyl ester.

reactant | N-(1-methylcyclobutyloxycarbonyl) aspartic anhydride | CC1(CCC1)OC(=O)N[C@H]1CC(=O)OC1=O | C10H13NO5
reactant | phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | N-(1-methylcyclobutyloxycarbonyl) aspartyl-phenylalanine methyl ester | COC([C@@H](NC([C@@H](NC(=O)OC1(CCC1)C)CC(O)=O)=O)CC1=CC=CC=C1)=O | C20H26N2O7
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | aspartyl-phenylalanine methyl ester | COC([C@@H](NC([C@@H](N)CC(O)=O)=O)CC1=CC=CC=C1)=O | C14H18N2O5
